US06057295
A] Starting from H-Pro-OtBu.HCl (0.315 g, 1.5 mmoles) and Z-Pro-OH (0.397 g, 1.59 mmoles) the procedure of Example 1, C-D] was substantially applied. There was obtained 0.4 g of H-Pro-Pro-OtBu.

reactant | H-Pro-OtBu.HCl | 1.5 mmoles, 0.315 g | N1[C@H](C(=O)OC(C)(C)C)CCC1.Cl
reactant | Z-Pro-OH | 1.59 mmoles, 0.397 g | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
product | H-Pro-Pro-OtBu | 0.4 g | N1[C@H](C(=O)N2[C@H](C(=O)OC(C)(C)C)CCC2)CCC1 | C14H24N2O3
